data/oMe_Silver.jsonl
{"reaction_id": "NR-130_1-c2ccccc2_2-C(=O)OC_3-CO","name": "Leimgruber-Batcho Indole Synthesis","level": "medium","reactants_smiles": ["O=[N+]([O-])c1ccccc1C(C(=O)OC)=C(CO)N(c2ccccc2)c2ccccc2"],"products_smiles": ["c1ccc2c(c1)c(C(=O)OC)c(CO)[nH]2"],"conditions": "[H]","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "Nc1ccccc1C(C(=O)OC)=C(CO)N(c2ccccc2)c2ccccc2","rationale": "Single-electron transfer reduces the nitro group to an aniline, favored by the electron-rich aromatic ring and reductive conditions, stabilizing intermediates via resonance."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Nc1ccccc1C(C(=O)OC)C(CO)=[N+](c2ccccc2)c2ccccc2","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccc2c(c1)C(C(=O)OC)C(CO)=[NH+]2","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc2c(c1)c(C(=O)OC)c(CO)[nH]2","rationale": "Elimination of the leaving group restores aromaticity in the newly formed five-membered ring, providing strong thermodynamic driving force for indole formation."}],"description": "Under reductive conditions, the nitro group is reduced to an aniline, which undergoes intramolecular cyclization via nucleophilic attack on an iminium intermediate, followed by elimination to yield the indole core. Electronic activation and proximity drive the ring closure."}
{"reaction_id": "NR-076_1-C(C)(C)C_2-CCCC(C)C","name": "Ganem Oxidation","level": "medium","reactants_smiles": ["C(Br)(C(C)(C)C)(CCCC(C)C)","[O-][N+](CC)(CC)CC"],"products_smiles": ["C(=O)(C(C)(C)C)(CCCC(C)C)"],"conditions": "","mechnism_text_description": "The Ganem oxidation is the oxidation of benzylic or allylic halides to aldehydes or ketones. The mechanism begins with the nucleophilic oxygen of the trialkylamine N-oxide attacking the electrophilic carbon of the halide in an SN2 reaction, displacing the halide and forming an alkoxyammonium salt intermediate. In the second step, a base (like triethylamine, which can be a byproduct) abstracts an alpha-proton, leading to an E2 elimination. This forms a carbon-oxygen double bond and expels triethylamine as a leaving group, resulting in the final carbonyl compound.","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(O[N+](CC)(CC)CC)(C(C)(C)C)(CCCC(C)C)","step_weight": 0,"rationale": "The oxygen of the N-oxide is strongly nucleophilic due to its negative polarization, enabling backside SN2 attack on the electrophilic halide carbon, which is further activated by resonance or inductive effects from C(C)(C)C/CCCC(C)C, displacing the halide."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(C(C)(C)C)(CCCC(C)C)","step_weight": 0,"rationale": "A base abstracts the acidic α-proton adjacent to the positively charged oxygen, facilitating E2 elimination; the driving force is formation of the stable C=O bond and expulsion of neutral trialkylamine as a good leaving group."}],"description": "The Ganem oxidation converts benzylic or allylic halides into carbonyl compounds via nucleophilic substitution by an N-oxide, followed by base-induced elimination. The reaction leverages the electrophilicity of the halide carbon and the good leaving group ability of the trialkylamine, under mild, non-metal conditions."}
